US20010011079A1
Uridine 5′-monophosphate (Sigma, Milwaukee, 3.0 g, 9.26 mmol) was dissolved in dry DMF (10 mL) and tributylamine (Aldrich, 2 mL). The solution was evaporated in vacuo at 40° C. to an oil. The residue was dissolved in dry DMF (Aldrich, 8 mL) to form a solution. Carbonyldiimidazole (Aldrich, 1.65 g, 10.18 mmol) was added to this solution. The reaction was heated at 50° C. for one hour. Uridine 5′-triphosphate (Yamasa, 5.60 g, 10.18 mmol) prepared as the anhydrous tributylanunonium salt in DMF (5 mL) and tributylamine (2 mL), as described in Example 3 below, was added to the reaction solution. The mixture was allowed to stir at 50° C. for three days when the solution was evaporated in vacuo to an oil, redissolved in water (5 mL) and purified by column (300×50 mm) chromatography (Sephadex DEAE-A25, 40-120μ, Aldrich, pre-swollen in 1.0 M NaHCO3 and washed with 2 column volumes of deionized H2O (H2O→0.3 M NH4HCO3 gradient). The pure fractions were concentrated in vacuo at 35° C., and H2O added and reevaporated 5 times to obtain diuridine tetraphosphate tetrammonium salt as a white solid (2.37 g, 30% yield): 92.11% pure by HPLC with the same retention time as the standard. In addition, the tetrammonium salt was analyzed by FABMS to give a mass of [C18H25N4O23P4 (M—H+)31: calculated 788.9860] 788.9857, confirming a parent formula of C18H26N4O23P4 for the free acid].

reactant | Uridine 5′-monophosphate | 9.26 mmol, 3.0 g | P(=O)(O)(O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)NC(=O)C=C1)O)O | C9H13N2O9P
reactant | Carbonyldiimidazole | 10.18 mmol, 1.65 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Uridine 5′-triphosphate | 10.18 mmol, 5.60 g | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)NC(=O)C=C1)O)O | C9H15N2O15P3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | tributylamine | 2 mL | C(CCC)N(CCCC)CCCC | C12H27N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | tributylamine | 2 mL | C(CCC)N(CCCC)CCCC | C12H27N
product | diuridine tetraphosphate | OP(O)(=O)OP(=O)(O)OP(=O)(O)OP(=O)(O)O.[C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C=C1.[C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C=C1 | InChI=1S/2C9H12N2O6.H6O13P4/c2*12-3-4-6(14)7(15)8(17-4)11-2-1-5(13)10-9(11)16;1-14(2,3)11-16(7,8)13-17(9,10)12-15(4,5)6/h2*1-2,4,6-8,12,14-15H,3H2,(H,10,13,16);(H,7,8)(H,9,10)(H2,1,2,3)(H2,4,5,6)/t2*4-,6-,7-,8-;/m11./s1
